US07241458B1
4-[(4-chloro-2-pyrimidinyl)amino]benzonitrile (0.003 mol), 2,6-dibromo-4-methyl-benzenamine (0.006 mol) and 1 M HCl in diethyl ether (4.5 ml) in 1,4-dioxane (10 ml) were combined in a tube and heated under Ar until all diethyl ether had evaporated. The tube was sealed and heated at 170° C. for 2.5 days. Silica gel was added, and the solvent was evaporated. The residue was purified by flash column chromatography over silica gel (eluent gradient: CH2Cl2:CH3OH:NH4OH 100:0:0 to 99:0.9:0.1). The desired fractions were collected and the solvent was evaporated. The residue was recrystallized from acetonitrile, filtered off and dried, yielding 0.22 g (15.9%) of 4-[[4-[(2,6-dibromo-4-methylphenyl)amino]-2-pyrimidinyl]amino]benzonitrile. b) 4-[[4-[(4-chloro-5-methyl-2-pyrimidinyl]amino]benzonitrile (0.01541 mol), 4-amino-3,5-dimethyl-benzonitrile (0.00219 mol), 1-methyl-2-pyrrolidinone (4 ml), 1,4-dioxane (15 ml) and diisopropylethylamine (0.0154 mol) were combined in a flask under a stream of argon and heated at 160–230° C. for 16 hours. CH2Cl2 and 1N NaOH were added, and the mixture was stirred 1 hour and filtered to give a brown solid (!). The CH2Cl2 filtrate was separated and was evaporated and purified by flash column chromatography (eluent: 2% CH3OH/CH2Cl2). The desired fractions were combined, evaporated and the residue was stirred in CH2Cl2. The solid precipitate was filtered off, combined with the brown solid (!) and recrystallized from CH3CN. The precipitate was filtered off and dried, yielding 1.57 g (29%) of 4-[[2-[(4-cyanophenyl)amino]-5-methyl-4-pyrimidinyl]amino]-3,5-dimethylbenzonitrile (comp. 52). c) 2-[(4-cyanophenyl)amino]4-pyrimidinyl trifluoromethanesulfonate (0.0022 mol) and 2,6-dichloro-4-(trifluoromethyl)-benzenamine (0.0044 mol) were combined in 1,4-dioxane (2.5 ml) and heated in a sealed tube under Ar at 170° C. for 40 hours. The reaction mixture was allowed to cool to room temperature. Silica gel was added, and the solvent was evaporated. The residue was purified by flash column chromatography over silica gel (eluent gradient: CH2Cl2:CH3OH:NH4OH 100:0:0 to 97:2.7:0.3). The desired fractions were collected and the solvent was evaporated. The residue was recrystallized from CH3CN, filtered off and dried, yielding 0.086 g (9.2%) of 4-[[4-[[2,6-dichloro-4-(trifluoromethyl)-phenyl]amino]-2-pyrimidinyl]amino]benzonitrile (comp. 23).

reactant | 4-[(4-chloro-2-pyrimidinyl)amino]benzonitrile | 0.003 mol | ClC1=NC(=NC=C1)NC1=CC=C(C#N)C=C1 | C11H7ClN4
reactant | 2,6-dibromo-4-methyl-benzenamine | 0.006 mol | BrC1=C(C(=CC(=C1)C)Br)N | C7H7Br2N
reactant | HCl | 1 M | Cl | ClH
solvent | diethyl ether | 4.5 ml | C(C)OCC | C4H10O
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-[[4-[(2,6-dibromo-4-methylphenyl)amino]-2-pyrimidinyl]amino]benzonitrile | 0.22 g, 15.9% | BrC1=C(C(=CC(=C1)C)Br)NC1=NC(=NC=C1)NC1=CC=C(C#N)C=C1 | C18H13Br2N5
